US07772249B2
4-[3-[Di(cyclopropylmethyl)amino]-2-(methylsulfanyl)imidazo[1,2-a]pyrazin-8-yl]-3-methoxybenzonitrile
N-[8-(4-Bromo-2-methoxyphenyl)-2-(methylsulfanyl)imidazo[1,2-a]pyrazin-3-yl]-N,N-dicyclopropylmethylamine (53 mg) was dissolved in N,N-dimethylformamide (0.22 mL), then zinc cyanide (23 mg) and tetrakistriphenylphosphine palladium complex (13 mg) were added thereto. After that, the mixture was heated under stirring at 95° C. for 4 hours and cooled to room temperature, and then ethyl acetate was added thereto. The precipitated insoluble matters were filtered off, and then it was extracted with ethyl acetate. The resulting organic layer was washed with water, dried over magnesium sulfate, and then the solvent was evaporated. The resulting residue was purified by silica gel column chromatography (ethyl acetate:n-hexane=1:5) to give the title compound (26 mg) as yellow crystals.

reactant | N-[8-(4-Bromo-2-methoxyphenyl)-2-(methylsulfanyl)imidazo[1,2-a]pyrazin-3-yl]-N,N-dicyclopropylmethylamine | 53 mg | BrC1=CC(=C(C=C1)C=1C=2N(C=CN1)C(=C(N2)SC)N(CC2CC2)CC2CC2)OC | C22H25BrN4OS
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | N,N-dimethylformamide | 0.22 mL | CN(C=O)C | C3H7NO
catalyst | zinc cyanide | 23 mg | [C-]#N.[Zn+2].[C-]#N
product | 4-[3-[Di(cyclopropylmethyl)amino]-2-(methylsulfanyl)imidazo[1,2-a]pyrazin-8-yl]-3-methoxybenzonitrile | 26 mg | C1(CC1)CN(C1=C(N=C2N1C=CN=C2C2=C(C=C(C#N)C=C2)OC)SC)CC2CC2 | C23H25N5OS
